US07294716B2
In a 2L 3-necked flask equipped with a mechanical stirrer and a condenser was placed a solution of sodium hydroxide (168 g, 4.2 mol) in water (1 L). 3,5-Dimethyl phenol (146.4 g, 1.2 mol) was added and the resulting mixture was stirred to get a solution. Chloroacetic acid (226.8 g, 2.4 mol) was added and the resulting mixture was heated on a steam bath for 4 hr. The reaction mixture was cooled in an ice-water bath and acidified with a mixture of concentrated hydrochloric acid (150 mL) and crushed-ice (100 g). After stirring for 30 min the solid was collected, washed with water (500 mL) and suspended in hexane (1 L). The suspension was stirred for 1 hr, solid collected and air dried to give 162 g (75%) of the 3,5-dimethylphenoxyacetic acid.

reactant | sodium hydroxide | 4.2 mol, 168 g | [OH-].[Na+]
reactant | 3,5-Dimethyl phenol | 1.2 mol, 146.4 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | Chloroacetic acid | 2.4 mol, 226.8 g | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | 150 mL | Cl | ClH
solvent | water | 1 L | O | H2O
product | 3,5-dimethylphenoxyacetic acid | 162 g, 75% | CC=1C=C(OCC(=O)O)C=C(C1)C | C10H12O3
